US08022223B2
N-(3-(2-chlorophenylthio)-5-(piperidin-4-ylmethylthio)pyridin-2-yl)-4-methylthiazol-2-amine dihydrochloride
Prepared according to the method of Example 16 using methyl 3-(5-(2-chlorophenylthio)-6-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)propanoate and tert-butyl 4-(bromomethyl)piperidine-1-carboxylate. 1H NMR (d6-DMSO) δ 12.15 (bs, 1H), 10.05 (bs, 1H), 8.64 (m, 1H), 8.32 (m, 2H), 7.63 (m, 1H), 7.36 (m, 2H), 6.52 (s, 1H), 3.22 (m, 2H), 2.79 (m, 4H), 2.17 (s, 3H), 1.86 (m, 2H), 1.61 (m, 1H), 1.36 (m, 2H); Mass spectrum (esi) m/z=463.0 (M+H-2HCl).

reactant | methyl 3-(5-(2-chlorophenylthio)-6-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)propanoate | ClC1=C(C=CC=C1)SC=1C=C(C=NC1NC=1SC=C(N1)C)SCCC(=O)OC | C19H18ClN3O2S3
reactant | tert-butyl 4-(bromomethyl)piperidine-1-carboxylate | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
product | N-(3-(2-chlorophenylthio)-5-(piperidin-4-ylmethylthio)pyridin-2-yl)-4-methylthiazol-2-amine dihydrochloride | Cl.Cl.ClC1=C(C=CC=C1)SC=1C(=NC=C(C1)SCC1CCNCC1)NC=1SC=C(N1)C | InChI=1S/C21H23ClN4S3.2ClH/c1-14-12-28-21(25-14)26-20-19(29-18-5-3-2-4-17(18)22)10-16(11-24-20)27-13-15-6-8-23-9-7-15;;/h2-5,10-12,15,23H,6-9,13H2,1H3,(H,24,25,26);2*1H
